US06642389B2
In analogy to the procedures described in examples 11 a] to 11 c], 3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde (example 114 b]) was reacted with (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one and nBu2BOTf to yield (S)-4-benzyl-3-((2S,3R) -2-ethoxy-3-hydroxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionyl)-oxazolidin-2-one (according to NMR, one of the four isomers is strongly predominating; the configuration was tentatively assigned as 2S, 3R according to Tetrahedron Asymmetry 1999, 1353). Reduction of (S)-4-benzyl-3-((2S,3R)-2-ethoxy-3-hydroxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionyl)-oxazolidin-2-one with triethylsilane in trifluoroacetic acid then gave (S)-4-benzyl-3-((2S)-2-ethoxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionyl)-oxazolidin-2-one. The (S)-4-benzyl-3-((2S)-2-ethoxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionyl)-oxazolidin-2-one was subsequently saponified with 1N NaOH in THF to yield (S)-2-ethoxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid as colorless solid. The enantiomeric excess was judged according to chiral HPLC (Chiralpak-AD) to be 99.3%.

reactant | 3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | CC=1C=C(C=O)C=CC1OCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H19NO3
reactant | (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COCC)=O | C14H17NO4
reactant | nBu2BOTf | B(CCCC)(CCCC)OS(=O)(=O)C(F)(F)F | C9H18BF3O3S
product | (S)-4-benzyl-3-((2S,3R) -2-ethoxy-3-hydroxy-3-{3-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionyl)-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)O)OCC)=O | C34H36N2O7
